### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Finsupp/linearCombination): add bilinearCombination

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Add `Finsupp.bilinearCombination` and `Fintype.bilinearCombination` as bilinear maps.

Previously, `Fintype.linearCombination` was a bilinear map, but `Finsupp.linearCombination` was only linear in the second variable.
That made `Fintype.linearCombination` unusable in the noncommutative case.
By consistency, `Fintype.linearCombination` is downgraded to a linear map. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 1]
```diff
@@ -11,10 +11,16 @@ import Mathlib.LinearAlgebra.Finsupp.Supported
...
-* `Finsupp.linearCombination R (v : ι → M)`: sends `l : ι → R` to the linear combination of
+* `Finsupp.linearCombination R (v : ι → M)`: sends `l : ι →₀ R` to the linear combination of
   `v i` with coefficients `l i`;
 * `Finsupp.linearCombinationOn`: a restricted version of `Finsupp.linearCombination` with domain
 
+* `Fintype.linearCombination R (v : ι → M)`: sends `l : ι → R` to the linear combination of
+  `v i` with coefficients `l i` (for a finite type `ι`)
+
+* `Finsupp.bilinearCombination R S`, `Fintype.bilinearCombination R S`:
+a bilinear bersion of `Finsupp.linearCombination` and `Fintype.linearCombination`.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:22]:
```suggestion
  a bilinear bersion of `Finsupp.linearCombination` and `Fintype.linearCombination`.
```

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 2]
```diff
@@ -268,36 +294,29 @@ variable {α M : Type*} (R : Type*) [Fintype α] [Semiring R] [AddCommMonoid M]
...
-      map_add' := fun f g => by simp_rw [← Finset.sum_add_distrib, ← add_smul]; rfl
-      map_smul' := fun r f => by simp_rw [Finset.smul_sum, smul_smul]; rfl }
-  map_add' u v := by ext; simp [Finset.sum_add_distrib, Pi.add_apply, smul_add]
-  map_smul' r v := by ext; simp [Finset.smul_sum, smul_comm]
-
-variable {S}
+protected def Fintype.linearCombination : ((α → R) →ₗ[R] M) where
+    toFun := fun f => ∑ i, f i • v i
+    map_add' := fun f g => by simp_rw [← Finset.sum_add_distrib, ← add_smul]; rfl
+    map_smul' := fun r f => by simp_rw [Finset.smul_sum, smul_smul]; rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:306]:
```suggestion
  toFun f := ∑ i, f i • v i
  map_add' f g := by simp_rw [← Finset.sum_add_distrib, ← add_smul]; rfl
  map_smul' r f := by simp_rw [Finset.smul_sum, smul_smul]; rfl
```

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 3]
```diff
@@ -268,36 +294,29 @@ variable {α M : Type*} (R : Type*) [Fintype α] [Semiring R] [AddCommMonoid M]
...
-protected def Fintype.linearCombination : (α → M) →ₗ[S] (α → R) →ₗ[R] M where
-  toFun v :=
-    { toFun := fun f => ∑ i, f i • v i
-      map_add' := fun f g => by simp_rw [← Finset.sum_add_distrib, ← add_smul]; rfl
-      map_smul' := fun r f => by simp_rw [Finset.smul_sum, smul_smul]; rfl }
-  map_add' u v := by ext; simp [Finset.sum_add_distrib, Pi.add_apply, smul_add]
-  map_smul' r v := by ext; simp [Finset.smul_sum, smul_comm]
-
-variable {S}
+protected def Fintype.linearCombination : ((α → R) →ₗ[R] M) where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:303]:
```suggestion
protected def Fintype.linearCombination : (α → R) →ₗ[R] M where
```

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 4]
```diff
@@ -306,16 +325,43 @@ theorem Finsupp.linearCombination_eq_fintype_linearCombination_apply (x : α →
...
+  toFun v := Fintype.linearCombination R v
+  map_add' u v := by ext; simp [Fintype.linearCombination,
+    Finset.sum_add_distrib, Pi.add_apply, smul_add]
+  map_smul' r v := by ext; simp [Fintype.linearCombination, Finset.smul_sum, smul_comm]
+
+variable {S}
+
+theorem Fintype.bilinearCombination_apply_eq_linearCombination :
+    Fintype.bilinearCombination R S v = Fintype.linearCombination R v :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:353]:
```suggestion
@[simp]
theorem Fintype.bilinearCombination_apply :
    Fintype.bilinearCombination R S v = Fintype.linearCombination R v :=
  rfl
```
I don't think we need a long name for "just unfold the bundling".

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 5]
```diff
@@ -306,16 +325,43 @@ theorem Finsupp.linearCombination_eq_fintype_linearCombination_apply (x : α →
...
+
+theorem Fintype.bilinearCombination_apply (f) :
+    Fintype.bilinearCombination R S v f = ∑ i, f i • v i :=
+  rfl
+
+@[simp]
+theorem Fintype.bilinearCombination_apply_single [DecidableEq α] (i : α) (r : R) :
+    Fintype.bilinearCombination R S v (Pi.single i r) = r • v i := by
+  simp_rw [Fintype.bilinearCombination_apply, Pi.single_apply, ite_smul, zero_smul]
+  rw [Finset.sum_ite_eq', if_pos (Finset.mem_univ _)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:363]: This should be proved about `linearCombination` instead (or dropped entirely if that already exists), since with the above the LHS is no longer simp-normal.

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 6]
```diff
@@ -258,6 +249,41 @@ theorem linearCombination_onFinset {s : Finset α} {f : α → R} (g : α → M)
...
+  map_add' u v := by ext; simp [Finset.sum_add_distrib, Pi.add_apply, smul_add]
+  map_smul' r v := by ext; simp [Finset.smul_sum, smul_comm]
+
+theorem bilinearCombination_apply_eq_linearCombination :
+    bilinearCombination R S v = linearCombination R v :=
+  rfl
+
+theorem bilinearCombination_apply (f) :
+    bilinearCombination R S v f = f.sum fun i c ↦ c • v i := by
+  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:272]:
```suggestion
@[simp]
theorem bilinearCombination_apply :
    bilinearCombination R S v = linearCombination R v :=
  rfl
```
I think better not to unfold multiple layers at once.

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:22]: Also read "version" for "bersion"

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 7]
```diff
@@ -258,6 +249,41 @@ theorem linearCombination_onFinset {s : Finset α} {f : α → R} (g : α → M)
...
+
+variable (α M)
+
+@[simp]
+theorem linearCombination_zero : linearCombination R (0 : α → M) = 0 :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:277]: I don't understand why you're moving these

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:22]:
```suggestion
  a bilinear version of `Finsupp.linearCombination` and `Fintype.linearCombination`.
```

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:277]: It was a mistake.

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:361]: `simp` proves it already, hence I deleted it.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean]: I moved `linearCombination_zero` to its initial place, but the `bilinearCombination` part fits better at the end, because it uses some `simp` lemmas that are proved earlier and requires to add some variables (such as `Module S M`).

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 8]
```diff
@@ -59,21 +67,6 @@ theorem linearCombination_single (c : R) (a : α) :
 theorem linearCombination_zero_apply (x : α →₀ R) : (linearCombination R (0 : α → M)) x = 0 := by
   simp [linearCombination_apply]
 
-variable (α M)
-
-@[simp]
-theorem linearCombination_zero : linearCombination R (0 : α → M) = 0 :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:65]: This is the line I was arguing sopuld not have moved

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:65]: OMG, I'll open a PR at once to restore that one and the one after at this place, now I see your point.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:65]: #22713
